US09371319B2
Preparation 80: tert-Butyl 6-bromo-3-chloro-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
DMAP (1.0 mg, 8.34 μmol) was added to a solution of 6-bromo-3-chloro-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 79, 26 mg, 0.083 mmol), triethylamine (17.5 mL, 0.125 mmol) and di-tert-butyl dicarbonate (27 mg, 0.125 mmol) in EtOAc (673 mL) and DMF (500 mL). The reaction mixture was stirred for overnight at room temperature. Then further di-tert-butyl dicarbonate (27.3 mg, 0.125 mmol) was added. The reaction mixture was stirred for another 5 hours before being diluted with EtOAc and washed with water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude was purified via Biotage silica gel column chromatography eluting with (DCM/EtOAc 99/1 to 80/20) to afford the title product as a white solid (25 mg, 73%). 1H NMR (500 MHz, CDCl3) d 1.51 (s, 9H), 4.02 (s, 3H), 7.63 (s, 1H), 7.66 (s, 1H), 8.26 (d, J=0.8 Hz, 1H), 8.63 (d, J=0.8 Hz, 1H). LC (Method B)-MS (ESI, m/z) tR 3.31 min, 411 [(M+H+), 100%].

reactant | 6-bromo-3-chloro-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.083 mmol, 26 mg | BrC1=CC2=C(C=N1)C(=C(N2)C=2C=NN(C2)C)Cl | C11H8BrClN4
reactant | triethylamine | 0.125 mmol, 17.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.125 mmol, 27 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 0.125 mmol, 27.3 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 8.34 μmol, 1.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 673 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 6-bromo-3-chloro-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 25 mg, 73% | BrC1=CC2=C(C=N1)C(=C(N2C(=O)OC(C)(C)C)C=2C=NN(C2)C)Cl | C16H16BrClN4O2
